US05631257
1-Acetonyl-1-methyl-4-(benzoxazol-2-yl)piperazinium bromide
A 100 mg portion of 2-(4-methyl-1-piperazinyl)-benzoxazole was dissolved in 3 ml of DMF. Under cooling with ice, 95 mg of bromoacetone was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 60 hours at room temperature. The reaction solution was concentrated under a reduced pressure, and 5 ml of acetone was added to the resulting residue. The precipitate thus formed was collected by filtration, washed with acetone and then dried to obtain 119 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)-benzoxazole | CN1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C12H15N3O
reactant | bromoacetone | 95 mg | BrCC(C)=O | C3H5BrO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-Acetonyl-1-methyl-4-(benzoxazol-2-yl)piperazinium bromide | 119 mg | [Br-].C(C(=O)C)[N+]1(CCN(CC1)C=1OC2=C(N1)C=CC=C2)C | InChI=1S/C15H20N3O2.BrH/c1-12(19)11-18(2)9-7-17(8-10-18)15-16-13-5-3-4-6-14(13)20-15;/h3-6H,7-11H2,1-2H3;1H/q+1;/p-1
